US08957089B2
98.10 N-[2-({1-[1-(Pyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide dihydrochloride
N-[2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide (9 mg) were dissolved in methanol (1 ml). 10% Palladium on charcoal (5 mg) was added and the reaction mixture was stirred under an atmosphere of hydrogen at room temperature for 36 hours. The catalyst was removed by filtration and washed with methanol. The solvent was evaporated in vacuo. 5N isopropanolic hydrochloric acid (0.5 ml) was added. The solvent was evaporated in vacuo. Yield: 9 mg.

reactant | N-[2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide | 9 mg | ClC1=CC=CC(=N1)C1(CCC1)C1NCCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC | C23H30ClN3O3S
solvent | methanol | 1 ml | CO | CH4O
catalyst | Palladium on charcoal | 5 mg | [Pd] | Pd
product | N-[2-({1-[1-(Pyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide dihydrochloride | Cl.Cl.N1=C(C=CC=C1)C1(CCC1)C1NCCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC | InChI=1S/C23H31N3O3S.2ClH/c1-2-16-30(27,28)26-14-15-29-19-8-7-18-9-13-25-22(20(18)17-19)23(10-5-11-23)21-6-3-4-12-24-21;;/h3-4,6-8,12,17,22,25-26H,2,5,9-11,13-16H2,1H3;2*1H
